US07022849B2
4-[[[6,7-Dimethoxy-2-(6-quinolinylamino)-4-quinazolinyl]amino]methyl]benzenesulfonamide
A19 was prepared in an manner analogous to example A1 with the exception that in step A1.1 4-aminosulfonylbenzylamine hydrochloride was substituted for 4-methylsulfonylbenzylamine hydrochloride, and in step A1.2, 6-aminoquinoline was substituted for ethyl 2-amino-4-methyl-5-thiazole carboxylate. The product was purified by preparatory reverse phase HPLC to yield A19. Analytical HPLC ret. time=1.09 min, [M+H]+=517.12. HPLC conditions: phenomenex primesphere 5 u C18 4.6×30 mm column, 5 mL/min, 2 min gradient, at 254 nm 0–100% B in A(A; 0.1% TFA in 90/10 water/methanol; B; 0.1% TFA in 10/90 water/methanol)

reactant | 4-aminosulfonylbenzylamine hydrochloride | Cl.NS(=O)(=O)C1=CC=C(CN)C=C1
reactant | 4-methylsulfonylbenzylamine hydrochloride | Cl.CS(=O)(=O)C1=CC=C(CN)C=C1
reactant | 6-aminoquinoline | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | ethyl 2-amino-4-methyl-5-thiazole carboxylate | NC=1SC(=C(N1)C)C(=O)OCC | C7H10N2O2S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | water methanol | O.CO
product | 4-[[[6,7-Dimethoxy-2-(6-quinolinylamino)-4-quinazolinyl]amino]methyl]benzenesulfonamide | COC=1C=C2C(=NC(=NC2=CC1OC)NC=1C=C2C=CC=NC2=CC1)NCC1=CC=C(C=C1)S(=O)(=O)N | C26H24N6O4S
